US08541595B2
Step 1: 3-[5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propane-1,2-diol
To a solution of 5-allyl-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindole (150 mg) in acetone (5.5 mL) was added water (1 mL) followed by NMO (60 mg) and OsO4 (0.536 mL, 2.5% in tert-BuOH). After stirring at room temperature for 24 h, 100 mg NMO and 0.1 mL OsO4 solution were added. After 9 h 0.1 mL more OsO4 solution was added and stirred at room temperature over the weekend. The reaction was then quenched with 1:1 aqueous saturated NaHCO3:Na2SO3 and partitioned between aqueous saturated NaHCO3 and EtOAc. Aqueous layer was extracted with EtOAc (3×). Combined organic layers were dried over Na2SO4 and concentrated. Purification by reversed phase HPLC (21×100 mm Phenomenex Gemini, 5-40% MeCN/water containing 0.1% TFA over 20 min at 20 mL/min) to give title compound as a white solid. Mass. found (M+H)+, 387.0.

reactant | 5-allyl-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindole | 150 mg | C(C=C)C1(N2C(C3=CC=CC=C13)=NC=C2)C2=CC=C(C=C2)Br | C19H15BrN2
reactant | water | 1 mL | O | H2O
reactant | NMO | 60 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | NMO | 100 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetone | 5.5 mL | CC(=O)C | C3H6O
catalyst | OsO4 | 0.536 mL | O=[Os](=O)(=O)=O
catalyst | OsO4 | 0.1 mL | O=[Os](=O)(=O)=O
catalyst | OsO4 | 0.1 mL | O=[Os](=O)(=O)=O
product | 3-[5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propane-1,2-diol | BrC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CC(CO)O | C19H17BrN2O2
